US07772246B2
To a solution of 5-bromo-3-iodopyridin-2-amine (B-5-2) (30 g, 0.1 mol) in DMF (600 mL) were added KOAc (29.4 g, 0.3 mol) and LiCl (4.25 g, 0.1 mol). After the mixture was degassed under N2 for 3 times, Pd(OAc)2 (2.24 g, 0.01 mol) was added, and the mixture was degassed again. Then trimethyl-prop-1-ynyl-silane (56 g, 0.5 mol) was added. The resulting mixture was heated to 80-100° C. for 2 days. TLC (EtOAc: Petroleum ether=1:5) showed that the reaction was complete. Excess DMF was removed under reduced pressure. The residue was dissolved in EtOAc (500 mL), washed with saturated aqueous NaCl, dried over Na2SO4 and concentrated to give crude product, which was purified via a silica gel column chromatography (100-200) (Petroleum ether, then EtOAc:Petroleum ether=1:10) to give 5-bromo-3-methyl-2-(trimethylsilyl)-1H-pyrrolo[2,3-b]pyridine (B-5-3) (not pure, 5 g, 17.7%) as a brown oil.

reactant | 5-bromo-3-iodopyridin-2-amine | 0.1 mol, 30 g | BrC=1C=C(C(=NC1)N)I | C5H4BrIN2
reactant | KOAc | 0.3 mol, 29.4 g | CC(=O)[O-].[K+]
reactant | LiCl | 0.1 mol, 4.25 g | [Li+].[Cl-]
reactant | trimethyl-prop-1-ynyl-silane | 0.5 mol, 56 g | C[Si](C#CC)(C)C | C6H12Si
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.01 mol, 2.24 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-bromo-3-methyl-2-(trimethylsilyl)-1H-pyrrolo[2,3-b]pyridine | BrC=1C=C2C(=NC1)NC(=C2C)[Si](C)(C)C | C11H15BrN2Si
